### PR TITLE
Adds implementation for Circomlib LessThan

### PR DESCRIPTION
**Pull request by semaraugusto**
circuit_proof_start is a bit too slow for the soundness proof so I decided not to use it

### CODE REVIEW

File: Clean/Circomlib/Comparators.lean [hunk 1]
```diff
@@ -206,6 +205,303 @@ template LessThan(n) {
...
+  ⟨ha, hb, hp_succ, pow_lt_of_succ hp_succ⟩
+
+lemma add_two_pow_sub_eq_add_diff {n a b : ℕ} (h : b ≤ a) :
+    a + 2 ^ n - b = 2 ^ n + (a - b) := by
+  calc
+    a + 2 ^ n - b
+      = (2 ^ n + a) - b := by ac_rfl
+    _ = (2 ^ n + a) - (b + 0) := by rfl
+    _ = 2 ^ n + (a - b) := by
+      simp only [Nat.add_zero, Nat.add_sub_assoc h]
```
Comment (pirapira) [inline Clean/Circomlib/Comparators.lean:236]: can be
```
  simp only [← Nat.add_sub_assoc h]
  ring_nf
```

File: Clean/Circomlib/Comparators.lean [hunk 2]
```diff
@@ -206,6 +205,303 @@ template LessThan(n) {
...
+
+lemma add_two_pow_sub_eq_sub_diff {n a b : ℕ} (h : a < b) :
+    a + 2 ^ n - b = 2 ^ n - (b - a) := by
+  have hb : b = a + (b - a) := (Nat.add_sub_of_le (Nat.le_of_lt h)).symm
+  calc
+    a + 2 ^ n - b
+        = a + 2 ^ n - (a + (b - a)) := by rw [hb]; simp only [Nat.add_sub_cancel_left]
+    _ = (2 ^ n + a) - ((b - a) + a) := by ac_rfl
+    _ = 2 ^ n - (b - a) := by simp only [Nat.add_sub_add_right]
```
Comment (pirapira) [inline Clean/Circomlib/Comparators.lean:245]: can be
```
omega
```

and then, maybe this lemma doesn't need to be stated. Instead of using this, one can call the `omega` tactic.

File: Clean/Circomlib/Comparators.lean [hunk 3]
```diff
@@ -206,6 +205,303 @@ template LessThan(n) {
...
+
+lemma add_two_pow_sub_lt_pow_succ {n a b : ℕ} (ha : a < 2 ^ n) :
+    a + 2 ^ n - b < 2 ^ (n + 1) := by
+  calc
+    a + 2 ^ n - b ≤ a + 2 ^ n := Nat.sub_le _ _
+    _ < 2 ^ n + 2 ^ n := Nat.add_lt_add_right ha _
+    _ = 2 ^ (n + 1) := by rw [Nat.pow_succ, Nat.mul_two]
```
Comment (pirapira) [inline Clean/Circomlib/Comparators.lean:252]: This can also be
```
omega
```

File: Clean/Circomlib/Comparators.lean [hunk 4]
```diff
@@ -206,6 +205,303 @@ template LessThan(n) {
...
+      have h_bit := nth_bit_set_of_val_ge (p := p) (n := n) (a := a) (b := b)
+                        bounds h_holds1 hab
+      rw [sub_eq_add_neg] at h_bit
+      exact h_bit
+    simp [h_bit_set, hab]
+
+/- In any field, `1 - [y ≤ x] = [x < y]` where brackets mean 1/0-as-a-field. -/
+lemma one_sub_if_le_eq_if_lt {F} [Field F] {x y : ℕ} :
+    (1 : F) + - (if y ≤ x then 1 else 0)
+  = (if x < y then 1 else 0) := by
```
Comment (pirapira) [inline Clean/Circomlib/Comparators.lean:496]: This kind of thing for a general decidable proposition might be a good candidate in the simpset.
